US05153214
To a solution of 2.35 g (7.2 mmol) of 2,2-dimethyl-4-(4-t-butyldimethylsilyloxybutyl)epsilon-caprolactone in 22 ml methanol is added 0.386 g (7.2 mmol) sodium methoxide and the mixture is stirred for 2.5 h. The reaction is quenched with saturated aqueous ammonium chloride and extracted twice with methylene chloride. The combined organic extracts are washed with water and brine, dried, filtered and evaporated to yield methyl 2,2-dimethyl-4-(2-hydroxyethyl)-8-(t-butyldimethylsilyloxy)-octanoate as an oil; NMR (CDCl3): delta 3.67 (s,3H), 3.55-3.65 (m,4H), 1.18 (s,6H), 0.89 (s,9H).

reactant | 2,2-dimethyl-4-(4-t-butyldimethylsilyloxybutyl)epsilon-caprolactone | 7.2 mmol, 2.35 g | CC1(C(=O)OCCC(C1)CCCCO[Si](C)(C)C(C)(C)C)C | C18H36O3Si
reactant | sodium methoxide | 7.2 mmol, 0.386 g | C[O-].[Na+]
reactant | methanol | 22 ml | CO | CH4O
product | methyl 2,2-dimethyl-4-(2-hydroxyethyl)-8-(t-butyldimethylsilyloxy)-octanoate | CC(C(=O)OC)(CC(CCCCO[Si](C)(C)C(C)(C)C)CCO)C | C19H40O4Si
